data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1625,1796,[CH3:14][O:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([C:21]#[N:22])[C:23]([CH3:24])=[O:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([CH:8]([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:18]([C:16]([O:15][CH3:14])=[O:17])([C:26]([CH3:27])=[O:28])[O:19][C:20]2([C:21]#[N:22])[C:23]([CH3:24])=[O:25],water,298.15,4.626380089129986,-69.13748002415663
4752,5427,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,32.9956008823845,-1.739635457568939
2358,2619,[CH3:19][NH:20][C:21](=[O:22])[C:23]([C:24]([CH3:25])=[O:26])=[N+:27]([CH3:28])[N-:29][C:30]([CH3:31])=[O:32].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([C:9]([CH3:10])=[O:11])([C:12]([CH3:13])=[O:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[C:23]([C:21]([NH:20][CH3:19])=[O:22])([C:24]([CH3:25])=[O:26])[N:27]([CH3:28])[N:29]2[C:30]([CH3:31])=[O:32],water,298.15,28.88299519687376,-28.63177049634997
1793,1984,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15](=[O:16])[NH:17][CH3:18])[N+:19]([CH3:20])=[C:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[N:19]([CH3:20])[C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:15](=[O:16])[NH:17][CH3:18],water,298.15,46.80900767040906,-17.01556426159067
4717,5385,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([C:12](=[O:13])[O:14][CH3:15])=[N+:16]([CH3:17])[C-:18]([C:19]([CH3:20])=[O:21])[C:22]([CH3:23])=[O:24]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:18]([C:19]([CH3:20])=[O:21])([C:22]([CH3:23])=[O:24])[N:16]([CH3:17])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[C:12](=[O:13])[O:14][CH3:15],water,298.15,44.55284102060726,-2.575918957434378
3606,4117,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[CH:7]=[N+:8]([CH3:9])[C-:10]([C:11]([CH3:12])=[O:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH2:1]1[CH2:2][C:10]([C:11]([CH3:12])=[O:13])([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:8]([CH3:9])[CH:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,20.786133473759143,-32.09843317367405
1559,1725,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([C:21]#[N:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:20]([C:21]#[N:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:18]([CH3:19])[C:15]3([C:13]([CH3:12])=[O:14])[C:16]#[N:17],water,298.15,23.079587191985844,-31.738068435430268
1707,1888,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1.[CH:18]#[N+:19][C-:20]([C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28]>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([F:11])([C:12]#[N:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:20]([C:21](=[O:22])[O:23][CH3:24])([C:25](=[O:26])[O:27][CH3:28])[N:19]=[CH:18]2,water,298.15,12.165082622784784,-62.9866282335511
3590,4097,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([CH3:17])[C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([CH3:17])([C:18]#[N:19])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,16.9337021309295,-33.5452728526938
3181,3589,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[CH-:9][N+:10]([CH3:11])=[C:12]([C:13]#[N:14])[C:15]#[N:16]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[CH:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[C:12]1([C:13]#[N:14])[C:15]#[N:16],water,298.15,18.380819479384307,-23.04382712574937
2265,2510,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][NH:21][C:22](=[O:23])[N-:24][NH+:25]=[C:26]([C:27]#[N:28])[C:29](=[O:30])[O:31][CH3:32]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([F:13])([C:14]#[N:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[N:24]([C:22]([NH:21][CH3:20])=[O:23])[NH:25][C:26]2([C:27]#[N:28])[C:29](=[O:30])[O:31][CH3:32],water,298.15,18.23599440589081,-40.61454742597781
